2200-04-28 07:04:00 Physician Resident Progress Note
Chief Complaint: unresponsive
   24 Hour Events:
 PICC LINE - START [**2200-4-27**] 02:14 PM
 EEG - At [**2200-4-27**] 03:00 PM
 EKG - At [**2200-4-27**] 06:00 PM
 PICC LINE - STOP [**2200-4-27**] 06:14 PM
 ARTERIAL LINE - START [**2200-4-27**] 08:56 PM
 INVASIVE VENTILATION - START [**2200-4-27**] 09:10 PM
 PICC LINE - START [**2200-4-28**] 06:12 AM
   Started on Levophed for pressure support.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-27**] 09:53 PM
   Meropenem - [**2200-4-28**] 02:17 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-28**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (70 - 103) bpm
   BP: 100/54(71) {81/43(58) - 123/65(86)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,685 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                  1,685 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                    691 mL
                                                                    130 mL
   Urine:
                                                                    561 mL
                                                                    130 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 675 (0 - 730) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 26
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.39/36/80.[**Numeric Identifier 20**]/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 133
   Physical Exam:
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: intubated/sedated; unresponsive.
   Labs / Radiology
   102 K/uL
   9.4 g/dL
   93 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.8 mEq/L
   50 mg/dL
   99 mEq/L
   127 mEq/L
   27.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2200-4-27**]  05:00 PM
                             [**2200-4-27**]  09:22 PM
                             [**2200-4-27**]  09:41 PM
                             [**2200-4-27**]  10:50 PM
                             [**2200-4-28**]  01:03 AM
                             [**2200-4-28**]  03:31 AM
   WBC
   3.8
   6.6
   Hct
   26.3
   27.2
   27.8
   Plt
   62
   102
   Cr
   1.0
   1.2
   TropT
   <0.01
   TCO2
   22
   21
   23
   Glucose
   99
   93
   Other labs: PT / PTT / INR:21.6/47.9/2.0, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:37/82, Alk Phos / T Bili:233/17.1,
   Albumin:1.6 g/dL, LDH:351 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTHERMIA
   ASSESSMENT AND PLAN:
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory
   reports.
   - IVF boluses prn, continue levophed for pressure support.  Add
   vasopressin as needed.
   - check CVP, check ScV02
   .
   # Altered mental status: unclear etiology although leading diagnosis is
   likely post-ictal with slow metabolism or 2mg ativan this morning.
   Other etiologies could be worsening hepatic encephalopathy, although
   had 7 BMs yesterday and was taking her lactulose.  Missed her PM dose
   because of excessive BMs and then did not take anything by mouth this
   morning.  Could be secondary to infection.  Could be status
   epilecticus.  Could be from hyponatremia, but did not have a swift fall
   in Na today.
   - continue to monitor closely for respiratory depression
   - d/c cipro bc it also lower seizure threshold
   - follow up neuro recs
   - follow up final read CT head
   - consider MRI if stable for transport
   - if more awake, trial of lactulose, if still somnulent would consider
   intubation and NGT for lactulose trial
   - infectious workup with blood cx, urine cx, consider diagnostic
   paracentesis later
   - Avoid ativan as it will be cleared/metabolized slowly
   .
   # Respiratory Status: is protecting airway right now but is tenuous
   with poor gag reflex and depressed respiratory rate to 8.  She is
   satting well on 3L NC right now.
   - monitor for now, if mental status worsening, intubated
   - consider bronchoscopy today
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - f/u neuro recs
   - continue gabapentin, but hold for mental status
   - seizure precautions
   - EEG
   - MRI when stable
   .
   # Hypothermia: possibly infected
   - started vanco [**Last Name (un) **] empirically.
   .
   # Hyponatremia: has new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   .
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant
   - lactulose when PO access
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabalized.
   - continue to trend
   - hold keppra for now
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider ceftriaxone for ppx
   - consider diagnostic paracentesis
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds.
   .
   # ARF: resolved, was thought most likely secondary to hepatorenal
   syndrome initially.
   - follow urine output closely given history of hepatorenal syndrome
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down, unclear why; will continue to monitor
   and transfuse for hct <25.
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / NPO for now, consider
   nutrition consult for TF
   # PPX: PPI (now changed to IV), pneumoboots given thrombocytopenia,
   bowel regimen
   # ACCESS: PICC
   # CODE: Full
   #COMMUNICATION: son,
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-04-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2200-4-28**] 01:32 PM
   [**2200-4-28**]:
   Oliguric with UOP ranging 10-45ml/hour.  Started on hypertonic saline
   3% @ 40ml hour to correct hyponatremia (and any presence of cerebral
   edema).  Monitoring sodium q2-q4 hours with goal 135. Bronchoscopy with
   mucous plug yesterday.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-28**] 09:18 AM
   Meropenem - [**2200-4-29**] 02:32 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-29**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 89 (82 - 97) bpm
   BP: 100/56(72) {82/46(59) - 117/72(87)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,576 mL
                                                                    953 mL
   PO:
             TF:
                                                                     74 mL
                                                                    176 mL
   IVF:
                                                                  2,972 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    135 mL
   Urine:
                                                                    410 mL
                                                                    135 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  3,016 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 660 (568 - 689) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.33/37/134/17/-5
   Ve: 9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: intubated/sedated; unresponsive.
   Labs / Radiology
   98 K/uL
   8.8 g/dL
   135 mg/dL
   1.4 mg/dL
   17 mEq/L
   3.7 mEq/L
   53 mg/dL
   101 mEq/L
   128 mEq/L
   25.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2200-4-28**]  01:03 AM
                             [**2200-4-28**]  03:31 AM
                             [**2200-4-28**]  08:48 AM
                             [**2200-4-28**]  09:06 AM
                             [**2200-4-28**]  03:10 PM
                             [**2200-4-28**]  03:28 PM
                             [**2200-4-28**]  08:17 PM
                             [**2200-4-29**]  12:00 AM
                             [**2200-4-29**]  03:51 AM
                             [**2200-4-29**]  03:59 AM
   WBC
   6.6
   11.3
   9.4
   Hct
   27.8
   27.5
   25.6
   Plt
   102
   106
   98
   Cr
   1.2
   1.6
   1.4
   1.4
   1.6
   1.4
   TCO2
   23
   20
   19
   20
   Glucose
   93
   97
   115
   126
   121
   135
   Other labs: PT / PTT / INR:27.0/55.1/2.6, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:37/82, Alk Phos / T Bili:233/17.1,
   Lactic Acid:1.4 mmol/L, Albumin:1.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory
   reports. Possibly secondary to sepsis.
   - IVF as needed, though would monitor volume status closely to avoid
   fluid overload (more congestion on CXR today)
   - check CVP, check ScV02
   - Currently on vasopressin
 will hold for now and monitor BPs
   .
   # Altered mental status: unclear etiology although leading diagnosis is
   likely post-ictal with slow metabolism or 2mg ativan this morning.
   Other etiologies could be worsening hepatic encephalopathy, although
   had 7 BMs yesterday and was taking her lactulose.  Missed her PM dose
   because of excessive BMs and then did not take anything by mouth this
   morning.  Could be secondary to infection.  Could be status
   epilecticus.  Could be from hyponatremia. Head CT with no evidence for
   acute process. Possibly secondary to bacteremia as below. Also concern
   for cerebral edema.
   - continue to monitor closely for respiratory depression
   - follow up neuro recs
   - F/U infectious workup with blood cx, urine cx, consider diagnostic
   paracentesis if enough ascites to tap
   - Avoid ativan and other sedatives
   .
   # Respiratory Status: Intubated with concern over airway protection.
   - Currently undergoing spontaneous breathing trial (seems going well)
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Bronchoscopy with evidence of mucous plugging, collapse
   - Abx with vanco/[**Last Name (un) **] for ? PNA as above
   # Positive BCx. GPC in clusters from [**4-27**].
   - Continue vanco/[**Last Name (un) **]
   - F/U speciation/sensitivities
   - If S. aureus, will need PICC changed out; if S. epi could be
   contaminant
 consider treating through if only
 bottle positive
   .
   # ARF: Creatinine 1.4 (from baseline 1.0). Most likely due to poor
   renal perfusion, HRS vs. prerenal. Given very low urine Na concern for
   development of HRS.  UOP low overnight.
   - follow urine output closely given history of hepatorenal syndrome
   - F/U renal, liver recs re: treatment for HRS
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - f/u neuro recs: off meds at this time
   - seizure precautions
   - EEG
   - MRI when stable
   .
   # Hypothermia: possibly infected. Currently maintaining body temp.
   - Continue vanco/[**Last Name (un) **] empirically.
   .
   # Hyponatremia: has new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current MELD =
   31.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - F/U liver recs re: use of albumin, octreotide, midodrine
   .
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently. MELD = 31 today.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate
   - continue lactulose
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabalized.
   - continue to trend
   - hold keppra for now
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds.
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down, unclear why; will continue to monitor
   and transfuse for hct <25.
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / plan to start TF today
   # PPX: PPI (now changed to IV), pneumoboots given thrombocytopenia,
   bowel regimen
   # ACCESS: PICC
   # CODE: Full
   #COMMUNICATION: son
 may need family meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-04-30 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vasopressin stopped over concern for contribution to hyponatremia.
   Levophed continued to maintain pressures at 0.06 mcg/kg/mg.
   - Blood cx positive from [**2200-4-27**] speciated to coagulase negative staph.
   As this was 1/4 bottles, thought to be possibly a contaminant.
   Continuing to treat through existing PICC line (though would pull line
   if 2nd bottle positive).
   - Renal recs: ARF likely [**2-25**] prerenal vs. HRS. Given weak response to
   hypertonic saline, consider D/C or change vasopressin. No indication
   for RTT at this time. If metabolic acidosis worsens, may need HD.
   - Liver recs: Continue hypertonic saline, current mgmt (including
   current Abx, hypertonic saline). Pt does not require antifungal
   treatment
   - Neuro recs: 24-hour EEG, repeat head CT
   - Somewhat poor UOP overnight (20-60 cc/hr)
   - Repeat head CT: (prelim read) no cerebral edema (should patient
   develop cerebral edema, pharmacy provided protocol for treatment which
   is in patient's chart)
   - Started on TF
   - Needs to have family meeting scheduled to discuss goals of care
   - Na trended up appropriately with hypertonic saline to 136
   - Gave bolus of NS for hypotension/tachycardia 500 cc
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-28**] 09:18 AM
   Meropenem - [**2200-4-30**] 01:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-4-29**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-30**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 111 (85 - 111) bpm
   BP: 94/56(69) {85/46(61) - 124/68(86)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,600 mL
                                                                  1,159 mL
   PO:
             TF:
                                                                    293 mL
                                                                     94 mL
   IVF:
                                                                  1,947 mL
                                                                    945 mL
   Blood products:
   Total out:
                                                                  1,703 mL
                                                                    377 mL
   Urine:
                                                                    503 mL
                                                                    127 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                    897 mL
                                                                    782 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (529 - 715) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.35/37/105/16/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: intubated, sedated
   HEENT: PERRL, oropharynx clear
   Lung: CTA bilaterally
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: intubated/sedated; unresponsive.
   Labs / Radiology
   66 K/uL
   7.8 g/dL
   125 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.2 mEq/L
   60 mg/dL
   110 mEq/L
   136 mEq/L
   22.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2200-4-28**]  09:06 AM
                             [**2200-4-28**]  03:10 PM
                             [**2200-4-28**]  03:28 PM
                             [**2200-4-28**]  08:17 PM
                             [**2200-4-29**]  12:00 AM
                             [**2200-4-29**]  03:51 AM
                             [**2200-4-29**]  03:59 AM
                             [**2200-4-29**]  07:47 AM
                             [**2200-4-30**]  03:05 AM
                             [**2200-4-30**]  03:23 AM
   WBC
   9.4
   5.2
   Hct
   25.6
   22.6
   Plt
   98
   66
   Cr
   1.4
   1.4
   1.6
   1.4
   1.5
   TCO2
   20
   19
   20
   18
   21
   Glucose
   115
   126
   121
   135
   125
   Other labs: PT / PTT / INR:29.7/61.1/3.0,
   ALT / AST:35 (35) / 76 (82), Alk Phos / T Bili:224 (233)/16.2 (17.1),
   Albumin:1.6 g/dL, LDH:351 IU/L,
    Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:7.7 mg/dL
   Micro:
   -Blood cx([**4-27**]): 1 set coag negative staph (no speciation yet)
   -Stool: negative C.diff
   -Urine cx: NGTD
   -BAL: negative PCP, [**Name10 (NameIs) 12448**]
   Studies:
   CT HEAD ([**4-29**] (wet-read):  No evidence intracranial hemorrhage
   EEG ([**4-27**]) This is an abnormal portable EEG due to slowing,
   disorganization, and attenuation of the background consistent with a
   moderate to severe encephalopathy. Medications, toxic/metabolic
   disturbances, or infection are common causes. No focal areas of
   slowing, epileptiform discharges, or electrographic seizures were seen
   during this recording.
   Assessment and Plan
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory
   reports. Possibly secondary to sepsis.
   - IVF as needed, though would monitor volume status closely to avoid
   fluid overload
   -  CVP 8-12
   - check ScV02 (91% yesterday)
   - continue levophed to MAP >60 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Bronchoscopy with evidence of mucous plugging, collapse
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Volume-cycled assist control, low tidal volume
 if PaO2 worsens,
   increase PEEP
   .
   # Altered mental status:  Unclear etiology with differential including
   seizure/post-ictal, hepatic encephalopathy, infection, hyponatremia ,
   medication induced (started following ativan administration).   CT head
   with no evidence of acute process or cerebral edema. EEG consistent
   with encephalopathy with toxic/metabolic or infection being most common
   causes.  Cannot exclude seizure activity due to hepatic encephalopathy
   and uremia.  CXR on [**4-28**] with possible RLL opacity. Continues minimally
   responsive to pain.
   - 24 hour EEG
   - Neuro recs
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis)
   - continue broad spectrum antibiotics for now (vancomycin will need ID
   approval)
   - F/U final read CT head
   - continue to correct hyponatremia
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; could
   be contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out).
   - Continue vanco/[**Last Name (un) **]
   - F/U speciation/sensitivities
   .
   # ARF: Creatinine 1.4 (from baseline 1.0). Most likely due to poor
   renal perfusion, HRS vs. prerenal. Given very low urine Na concern for
   development of HRS.  UOP low overnight.
   - follow urine output closely given history of hepatorenal syndrome
   - F/U renal, liver recs re: treatment for HRS
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG
   - f/u final read CT head
   - MRI when stable
   - F/U with neuro regarding starting anti-epileptics (concern with
   Keppra due to elevated LFT)
   - seizure precautions
   .
   # Hyponatremia: has new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 24 hours with hypertonic saline.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hypothermia: possibly infected. Currently maintaining body temp.
   - Continue vanco/[**Last Name (un) **] empirically.
   ..
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently. MELD score of 33
   this AM.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate
   - continue lactulose
   - Low dose vitamin K for elevated INR
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabilized
   - continue to trend
   - hold keppra for now
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds.
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   - 1 unit pRBCs today
   .
   # Anemia: slowly trending down, unclear why; will continue to monitor
   and transfuse for hct <25.
   - recheck HCT this AM
   -  check stool for microscopic blood
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC
   # CODE: Full
   #COMMUNICATION: son
 may need family meeting (Dr. [**Last Name (STitle) 749**] will call)
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-29**] 05:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-01 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2200-4-30**] 11:00 AM
   24 hr eeg in process
   - started on norepinephrine late afternoon for hypotension
   - EEG going overnight
   - transfused 1 unit with post-transfusion HCT of 26
   - Renal recommended starting sevelamer 800mg NG TID
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-30**] 08:00 AM
   Meropenem - [**2200-5-1**] 12:30 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to Obtain
   Flowsheet Data as of  [**2200-5-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (99
   Tcurrent: 35.7
C (96.3
   HR: 92 (89 - 114) bpm
   BP: 122/66(85) {81/48(60) - 124/66(85)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,426 mL
                                                                    660 mL
   PO:
             TF:
                                                                    440 mL
                                                                    210 mL
   IVF:
                                                                  1,666 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,867 mL
                                                                    220 mL
   Urine:
                                                                    717 mL
                                                                    220 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 530 (479 - 618) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.33/35/78.[**Numeric Identifier 7**]/14/-6
   Ve: 13.2 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: intubated, sedated
   HEENT: PERRL, oropharynx clear
   Lung: Inspiratory rhonchi, R > L
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: Bilateral UE/LE [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubated/sedated; withdraws to painful stimuli and moving
   head spontaneously
   Labs / Radiology
   62 K/uL
   9.0 g/dL
   145 mg/dL
   1.4 mg/dL
   14 mEq/L
   3.7 mEq/L
   65 mg/dL
   112 mEq/L
   139 mEq/L
   25.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2200-4-29**]  07:47 AM
                             [**2200-4-30**]  03:05 AM
                             [**2200-4-30**]  03:23 AM
                             [**2200-4-30**]  10:39 AM
                             [**2200-4-30**]  04:16 PM
                             [**2200-4-30**]  04:17 PM
                             [**2200-4-30**]  04:47 PM
                             [**2200-5-1**]  01:00 AM
                             [**2200-5-1**]  01:04 AM
                             [**2200-5-1**]  06:10 AM
   WBC
   5.2
   6.6
   6.3
   Hct
   22.6
   26.0
   26.0
   25.3
   Plt
   66
   63
   62
   Cr
   1.5
   1.8
   1.4
   TCO2
   18
   21
   17
   18
   19
   Glucose
   125
   141
   145
   Other labs: PT / PTT / INR:31.8/49.7/3.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:36/92, Alk Phos / T Bili:236/17.0,
   Amylase / Lipase:53/30, Lactic Acid:1.8 mmol/L, Albumin:1.5 g/dL,
   LDH:592 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.5 fluid
   administration unlikely to remain intravascular.  Appears more
   interactive with higher MAP this AM.
   . Possibly secondary to sepsis.
   - though would monitor volume status closely to avoid fluid overload
   - CVP 8-12
   - check ScV02 (91% on [**4-29**])
   - continue levophed to MAP >75 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics but change vancomycin to 750mg
   Q24 and dose by trough
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   .
   # Altered mental status:  Unclear etiology with differential including
   seizure/post-ictal, hepatic encephalopathy, infection, hyponatremia ,
   medication induced (started following ativan administration).   CT head
   with no evidence of acute process or cerebral edema. EEG consistent
   with encephalopathy with toxic/metabolic or infection being most common
   causes.  Cannot exclude seizure activity due to hepatic encephalopathy
   and uremia.  CXR on [**4-28**] with possible RLL opacity.  More interactive
   this morning.
   - 24 hour EEG in progress: prelim read
 epileptiform activity; neuro
   considering starting AED (?zonegran)
   - f/u final neuro recs
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; could
   be contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out).
   - Continue vanco/[**Last Name (un) **]
   - F/U speciation/sensitivities
   .
   # ARF: Creatinine 1.4 (from baseline 1.0). Most likely due to poor
   renal perfusion, HRS vs. prerenal. Given very low urine Na concern for
   development of HRS.  UOP low overnight.
   - follow urine output closely given history of hepatorenal syndrome;
   bolus if < 30 cc/hr
   - dose vancomycin based on trough
   - F/U renal, liver recs re: treatment for HRS
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG
   - MRI when stable
   - neuro recommending no AEL at this time
   - seizure precautions
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 139 this morning.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hypothermia: possibly infected. Currently maintaining body temp.
   - Continue vanco/[**Last Name (un) **] empirically.
   ..
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate given co-morbidities
   - continue lactulose
   - Low dose vitamin K for elevated INR yesterday; no improvement
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabilized
   - continue to trend
   - hold AEL
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down now with guaiac + stool; will continue
   to monitor and transfuse for hct <25.
   -  recheck HCT this AM
   -  guaiac + stool
   - 1 unit pRBCs yesterday with post transfusion HCT 26
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC
   # CODE: Full
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-4-29**] 05:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-02 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Remains on levophed with maps around 80, maintaining adequate UOP.  Pt
   with worsening metabolic acidosis and increasing creatinine.  Received
   500ml of D5 with 150meq sodium bicarb.
   Continues to move all extremities spontaneously, now in soft
   restraints.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-30**] 08:00 AM
   Meropenem - [**2200-5-2**] 12:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-5-1**] 04:28 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to Obtain
   Flowsheet Data as of  [**2200-5-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 86 (82 - 97) bpm
   BP: 106/70(83) {104/55(71) - 135/76(95)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  2,627 mL
                                                                    669 mL
   PO:
   TF:
                                                                    714 mL
                                                                    212 mL
   IVF:
                                                                  1,194 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    240 mL
   Urine:
                                                                    880 mL
                                                                    240 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                    447 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 578 (521 - 589) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.31/34/84.[**Numeric Identifier 117**]/15/-8
   Ve: 11.3 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: intubated
   HEENT: PERRL, oropharynx clear
   Lung: Inspiratory rhonchi, R > L
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: Bilateral UE/LE [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubate; MAE
   Labs / Radiology
   58 K/uL
   9.4 g/dL
   169 mg/dL
   1.7 mg/dL
   15 mEq/L
   3.3 mEq/L
   74 mg/dL
   112 mEq/L
   140 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2200-4-30**]  04:47 PM
                             [**2200-5-1**]  01:00 AM
                             [**2200-5-1**]  01:04 AM
                             [**2200-5-1**]  06:10 AM
                             [**2200-5-1**]  02:07 PM
                             [**2200-5-1**]  02:10 PM
                             [**2200-5-1**]  02:16 PM
                             [**2200-5-1**]  10:18 PM
                             [**2200-5-2**]  02:20 AM
                             [**2200-5-2**]  02:33 AM
   WBC
   6.3
   7.7
   Hct
   26.0
   25.3
   25.6
   27.1
   Plt
   62
   58
   Cr
   1.4
   1.9
   1.7
   TCO2
   18
   19
   18
   17
   18
   Glucose
   145
   167
   169
   Other labs: PT / PTT / INR:32.1/48.1/3.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:37/86, Alk Phos / T Bili:254/18.9,
   Amylase / Lipase:53/30, Lactic Acid:2.0 mmol/L, Albumin:1.5 g/dL,
   LDH:592 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.5 fluid
   administration unlikely to remain intravascular.  Appears more
   interactive with higher MAP this AM.
   . Possibly secondary to sepsis.
   - though would monitor volume status closely to avoid fluid overload
   - CVP 8-12
   - continue levophed to MAP >75 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics but change vancomycin to 750mg
   Q24 and dose by trough
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   .
   # Altered mental status:  Unclear etiology with differential including
   seizure/post-ictal, hepatic encephalopathy, infection, hyponatremia ,
   medication induced (started following ativan administration).   CT head
   with no evidence of acute process or cerebral edema. EEG consistent
   with encephalopathy with toxic/metabolic or infection being most common
   causes.  Cannot exclude seizure activity due to hepatic encephalopathy
   and uremia.  CXR on [**4-28**] with possible RLL opacity.  More interactive
   this morning.
   - 24 hour EEG completed: prelim read
 epileptiform activity though no
   definite seizure activity (No AED at this time)
   - f/u final neuro recs
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; could
   be contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out). Likely contaminant
   - Continue vanco/[**Last Name (un) **]
   .
   # ARF: Creatinine 1.7 (from baseline 1.0). Most likely due to poor
   renal perfusion, HRS vs. prerenal. Given very low urine Na concern for
   development of HRS.  UOP low overnight.
   - follow urine output closely given history of hepatorenal syndrome;
   bolus if < 30 cc/hr
   - dose vancomycin based on level
   - F/U renal, liver recs re: treatment for HRS
   - Discuss with family goals of care, CVVH (may not improve status
   overall)
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG
   - MRI when stable
   - neuro recommending no AED at this time
   - seizure precautions
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 140 this morning.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hypothermia: possibly infected. Currently maintaining body temp.
   - Continue vanco/[**Last Name (un) **] empirically.
   ..
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate given co-morbidities
   - continue lactulose
   - Low dose vitamin K for elevated INR yesterday; no improvement
   - Check bladder pressure
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabilized
   - continue to trend
   - hold AED
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down now with guaiac + stool; will continue
   to monitor and transfuse for hct <25.
   -  recheck HCT this AM
   -  guaiac + stool
   - 1 unit pRBCs yesterday with post transfusion HCT 26
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC
   # CODE: Full
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-1**] 03:12 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2200-5-2**]:
   - Continues on levophed, which was increased from 0.05 to 0.07mcg in
   order to maintain MAP >75 O/N. UOP remains stably low at ~25 cc/hr.
   - Renal: No need for RRT, okay to give HCO3 PRN. Urine sediment
   consistent with ATN or HRS.
   - Neuro: 48-hr EEG monitoring w/o sz. Would not recommend AED at this
   time.
   - Liver: Send another C. diff. Recommend central access to monitor
   intravascular status. Not transplant candidate.
   - Dr. [**Last Name (STitle) 749**] spoke with son; no change in goals of care/code status at
   this time
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-2**] 09:10 AM
   Meropenem - [**2200-5-3**] 12:30 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 88 (86 - 95) bpm
   BP: 118/65(83) {104/57(73) - 132/72(92)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  2,085 mL
                                                                    773 mL
   PO:
   TF:
                                                                    720 mL
                                                                    208 mL
   IVF:
                                                                    865 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,622 mL
                                                                    315 mL
   Urine:
                                                                    722 mL
                                                                    315 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                    463 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (554 - 633) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.32/34/92/18/-7
   Ve: 9.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: intubated
   HEENT: PERRL, oropharynx clear
   Lung: Inspiratory rhonchi, R > L
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: Bilateral UE/LE [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubate; MAE non-purposefully
   Labs / Radiology
   44 K/uL
   9.4 g/dL
   157 mg/dL
   2.4 mg/dL
   15 mEq/L
   3.4 mEq/L
   80 mg/dL
   116 mEq/L
   143 mEq/L
   26.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2200-5-1**]  02:10 PM
                             [**2200-5-1**]  02:16 PM
                             [**2200-5-1**]  10:18 PM
                             [**2200-5-2**]  02:20 AM
                             [**2200-5-2**]  02:33 AM
                             [**2200-5-2**]  10:45 AM
                             [**2200-5-2**]  03:04 PM
                             [**2200-5-2**]  03:21 PM
                             [**2200-5-3**]  02:08 AM
                             [**2200-5-3**]  02:24 AM
   WBC
   7.7
   10.4
   Hct
   25.6
   27.1
   25.3
   26.8
   Plt
   58
   44
   Cr
   1.7
   1.6
   2.4
   TCO2
   18
   17
   18
   17
   19
   18
   Glucose
   169
   174
   157
   Other labs: PT / PTT / INR:24.9/51.3/2.4 (3.2),
   ALT / AST:32/81, Alk Phos / T Bili:256/19.9 (18.9), Amylase /
   Lipase:53/30, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome now with
   recovered renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.5 fluid
   administration unlikely to remain intravascular.  Appears more
   interactive with higher MAP.
   . Possibly secondary to sepsis.
   - though would monitor volume status closely to avoid fluid overload
   - CVP 8-12
   - continue levophed to MAP >75 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics and dose vancomycin by trough
   - Add on cortisol to AM labs
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   .
   # Altered mental status:  Unclear etiology with differential including
   seizure/post-ictal, hepatic encephalopathy, infection, hyponatremia ,
   medication induced (started following ativan administration).   CT head
   with no evidence of acute process or cerebral edema. EEG consistent
   with encephalopathy with toxic/metabolic or infection being most common
   causes.  Cannot exclude seizure activity due to hepatic encephalopathy
   and uremia.  CXR on [**4-28**] with possible RLL opacity.  More interactive
   - 24 hour EEG completed: prelim read
 epileptiform activity though no
   definite seizure activity (No AED needed, no seizure PPx at this time)
   - f/u final neuro recs
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; likely
   contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out). Likely contaminant
   - Continue vanco/[**Last Name (un) **]
   .
   # ARF: Creatinin trending up to 2.4 (from baseline 1.0). Most likely
   due to poor renal perfusion, HRS vs. prerenal. Given very low urine Na
   concern for development of HRS.  UOP low overnight.
   - re-check urine lytes and sediment, re-check Creatinine later in day
   - follow urine output closely given history of hepatorenal syndrome;
   bolus if < 30 cc/hr
   - dose vancomycin based on level
   - F/U renal, liver recs re: treatment for HRS
   - Discuss with family goals of care, CVVH (may not improve status
   overall)
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG
   - MRI when stable
   - neuro recommending no AED at this time
   - seizure precautions
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 140 this morning.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hypothermia: possibly infected. Currently maintaining body temp, but
   low.
   - Continue vanco/[**Last Name (un) **] empirically.
   - Bear hugger if temps stay low
   ..
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate given co-morbidities
   - continue lactulose
   - Low dose vitamin K for elevated INR yesterday; no improvement
   - Check bladder pressure (trending down)
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabilized
   - continue to trend
   - hold AED
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down now with guaiac + stool; will continue
   to monitor and transfuse for hct <25.
   -  recheck HCT this AM
   -  guaiac + stool
   - 1 unit pRBCs yesterday with post transfusion HCT 26
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC (will hold off on CVL for today)
   # CODE: Full
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-3**] 12:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-03 11:34:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -cont require levophed drip
   -eeg completed
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-2**] 09:10 AM
   Meropenem - [**2200-5-3**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-3**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 81 (80 - 95) bpm
   BP: 107/59(74) {104/57(73) - 132/72(92)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.4 kg (admission): 99.5 kg
   Height: 65 Inch
   Bladder pressure: 17 (17 - 24) mmHg
   Total In:
                                                                  2,085 mL
                                                                  1,243 mL
   PO:
   TF:
                                                                    720 mL
                                                                    332 mL
   IVF:
                                                                    865 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  1,622 mL
                                                                    425 mL
   Urine:
                                                                    722 mL
                                                                    425 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                    463 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 503 (503 - 633) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.32/34/91.[**Numeric Identifier 253**]/15/-7
   Ve: 13.4 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   44 K/uL
   157 mg/dL
   2.4 mg/dL
   15 mEq/L
   3.4 mEq/L
   80 mg/dL
   116 mEq/L
   143 mEq/L
   26.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2200-5-1**]  02:10 PM
                             [**2200-5-1**]  02:16 PM
                             [**2200-5-1**]  10:18 PM
                             [**2200-5-2**]  02:20 AM
                             [**2200-5-2**]  02:33 AM
                             [**2200-5-2**]  10:45 AM
                             [**2200-5-2**]  03:04 PM
                             [**2200-5-2**]  03:21 PM
                             [**2200-5-3**]  02:08 AM
                             [**2200-5-3**]  02:24 AM
   WBC
   7.7
   10.4
   Hct
   25.6
   27.1
   25.3
   26.8
   Plt
   58
   44
   Cr
   1.7
   1.6
   2.4
   TCO2
   18
   17
   18
   17
   19
   18
   Glucose
   169
   174
   157
   Other labs: PT / PTT / INR:24.9/51.3/2.4, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:32/81, Alk Phos / T Bili:256/19.9,
   Amylase / Lipase:53/30, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL,
   LDH:592 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 Septic shock
   -vanc, meropenem
   -cx data unrevealing so far
   -cont to require pressors
   -hypothermia - might need external warming
 H/O ALTERED MENTAL STATUS
   -EEG negative for NCSE
   -likely delerium related to medications/sepsis
 Hyponatremia
   -improving
 Acute on chronic renal failure
   -creatinine trending up, urine output minimal
   -bladder pressure lower than yesterday
   -suspect ATN due to hypoperfusion from hypotension/sepsis
Respiratory failure
   -requiring sig PEEP to offload diaphragm due to elevated intra-abd
   pressures
Liver failure
   -liver service following
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-3**] 12:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-05-04 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased levophed to maintain MAP >75, still UOP ~20cc/hr
   - creatinine worsening, FeNa 0.3, bolus 1000cc, PM creatinine better
   - Renal: likely HRS, oppose renal replacement therapy
   - Following bladder pressure = 17-18 (better than 24 yesterday)
   - AM cortisol nml
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-2**] 09:10 AM
   Meropenem - [**2200-5-4**] 12:07 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2200-5-3**] 11:00 PM
   Pantoprazole (Protonix) - [**2200-5-4**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to Obtain
   Flowsheet Data as of  [**2200-5-4**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 92 (80 - 100) bpm
   BP: 119/62(80) {101/54(68) - 137/73(93)} mmHg
   RR: 27 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 99.5 kg
   Height: 65 Inch
    Bladder pressure: 17 (17 - 18) mmHg
   Total In:
                                                                  3,325 mL
                                                                    778 mL
   PO:
   TF:
                                                                    720 mL
                                                                    211 mL
   IVF:
                                                                  1,875 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    160 mL
   Urine:
                                                                    770 mL
                                                                    160 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,555 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (503 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.31/34/122/16/-8
   Ve: 10.5 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: intubated
   HEENT: PERRL, sclerae icteric bilaterally
   Lung: Inspiratory rhonchi, R > L
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: Bilateral UE/LE [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubate; MAE non-purposefully
   Labs / Radiology
   39 K/uL
   8.9 g/dL
   163 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   87 mg/dL
   116 mEq/L
   144 mEq/L
   25.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2200-5-2**]  10:45 AM
                             [**2200-5-2**]  03:04 PM
                             [**2200-5-2**]  03:21 PM
                             [**2200-5-3**]  02:08 AM
                             [**2200-5-3**]  02:24 AM
                             [**2200-5-3**]  04:38 PM
                             [**2200-5-3**]  04:41 PM
                             [**2200-5-3**]  10:38 PM
                             [**2200-5-4**]  03:37 AM
                             [**2200-5-4**]  03:48 AM
   WBC
   10.4
   15.0
   Hct
   25.3
   26.8
   25.3
   25.6
   Plt
   44
   39
   Cr
   1.6
   2.4
   1.6
   1.8
   TCO2
   17
   19
   18
   18
   18
   18
   Glucose
   174
   157
   148
   163
   Other labs: PT / PTT / INR:34.2/64.5/3.5, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:32/89, Alk Phos / T Bili:268/19.9,
   Amylase / Lipase:53/60, Lactic Acid:2.2 mmol/L, Albumin:1.4 g/dL,
   LDH:584 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   45 y/o F with hx of Hep C cirrhosis, hepato-renal syndrome with
   worsening renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.5 fluid
   administration unlikely to remain intravascular.  Appears more
   interactive with higher MAP.   Increased pressor requirement overnight
   to maintain MAP > 75 but this AM narrow complex tachycardia with rate
   to 140s possibly due to increased levophed.
   . Possibly secondary to sepsis.
   - though would monitor volume status closely to avoid fluid overload
   - CVP 8-12 (though no current mechanism to monitor)
   - levophed to MAP >65 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics and dose vancomycin by trough
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   .
   # Altered mental status:  Unclear etiology with differential including
   seizure/post-ictal, hepatic encephalopathy, infection, hyponatremia ,
   medication induced (started following ativan administration).   CT head
   with no evidence of acute process or cerebral edema. EEG consistent
   with encephalopathy with toxic/metabolic or infection being most common
   causes.  Cannot exclude seizure activity due to hepatic encephalopathy
   and uremia.  CXR on [**4-28**] with possible RLL opacity.  More interactive
   - 24 hour EEG completed: generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted.
   - f/u final neuro recs
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; likely
   contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out). Likely contaminant
   - Continue vanco/[**Last Name (un) **]
   .
   # ARF: Creatinine trending to 1.8 (from baseline 1.0), improved from
   [**5-3**]. Most likely due to poor renal perfusion, HRS vs. prerenal. Given
   very low urine Na concern for development of HRS.  UOP low overnight.
   - [**Hospital1 **] lytes
   - follow urine output closely given history of hepatorenal syndrome;
   bolus if < 30 cc/hr
   - dose vancomycin based on level
   - F/U renal, liver recs re: treatment for HRS
   - Discuss with family goals of care, CVVH likely not a viable option
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG showing generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted
   - MRI when stable
   - neuro recommending no AED at this time
   - seizure precautions
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 140 this morning.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hypothermia: possibly infected. Currently maintaining body temp, but
   low.
   - Continue vanco/[**Last Name (un) **] empirically.
   - Bear hugger if temps stay low
   ..
   # Hep C Cirrhosis: has underlying hep C cirrhosis with INR 1.8 and
   woresning bilirubinemia.  Possibly has cholestasis from the keppra that
   was started about a week ago.  Has intermittent encephalopathy per the
   floor team but has been under good control recently.  Per hepatology
   likely not candidate for transplant at this time.
   - continue to trend LFTs/coags
   - f/u liver recs, is being evaluated for transplant but unlikely
   candidate given co-morbidities
   - continue lactulose
   - Low dose vitamin K for elevated INR yesterday; no improvement
   - Check bladder pressure (trending down)
   .
   # Cholestatsis: possibly due to worsening liver failure vs. keppra side
   effect.  Keppra has been stopped and the rising bili has stabilized
   - continue to trend
   - hold AED
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   - consider diagnostic paracentesis if sufficient ascites
 will
   re-check with bedside US today
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.
   - send UA and cultures
   .
   # Ascites/LE Edema: is stable per floor team, does have tense belly and
   mild peripheral edema.  Diuretics being held for hyponatremia.
   - continue to hold diuretics for now
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Asthma/COPD: stable on 3L nasal canula, no wheezes on exam right
   now.  Respiratory status compromised because of mentatl status.
   - nebs PRN
   .
   # Anemia: slowly trending down now with guaiac + stool; will continue
   to monitor and transfuse for hct <25.
   -  recheck HCT this AM
   -  guaiac + stool
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC (will hold off on CVL for today)
   # CODE: Full
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-3**] 05:02 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-04 11:49:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2200-5-3**] 08:00 AM
   c-diff
   -requiring increased levophed
   -[**Month (only) 453**] urine output, ivf boluses with minimal improvement in urine output
      creat cont to trend upward
   -episode of narrow complex tachycardia with hypotension, broke on its
   own
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-2**] 09:10 AM
   Meropenem - [**2200-5-4**] 08:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2200-5-3**] 11:00 PM
   Pantoprazole (Protonix) - [**2200-5-4**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-4**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 137 (84 - 170) bpm
   BP: 115/65(80) {101/54(68) - 137/73(93)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99.1 kg (admission): 99.5 kg
   Height: 65 Inch
   Bladder pressure: 16 (16 - 18) mmHg
   Total In:
                                                                  3,325 mL
                                                                  1,349 mL
   PO:
   TF:
                                                                    720 mL
                                                                    344 mL
   IVF:
                                                                  1,875 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    310 mL
   Urine:
                                                                    770 mL
                                                                    310 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,555 mL
                                                                  1,039 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 562 (562 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.31/34/122/16/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   39 K/uL
   163 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   87 mg/dL
   116 mEq/L
   144 mEq/L
   25.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2200-5-2**]  10:45 AM
                             [**2200-5-2**]  03:04 PM
                             [**2200-5-2**]  03:21 PM
                             [**2200-5-3**]  02:08 AM
                             [**2200-5-3**]  02:24 AM
                             [**2200-5-3**]  04:38 PM
                             [**2200-5-3**]  04:41 PM
                             [**2200-5-3**]  10:38 PM
                             [**2200-5-4**]  03:37 AM
                             [**2200-5-4**]  03:48 AM
   WBC
   10.4
   15.0
   Hct
   25.3
   26.8
   25.3
   25.6
   Plt
   44
   39
   Cr
   1.6
   2.4
   1.6
   1.8
   TCO2
   17
   19
   18
   18
   18
   18
   Glucose
   174
   157
   148
   163
   Other labs: PT / PTT / INR:34.2/64.5/3.5, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:32/89, Alk Phos / T Bili:268/19.9,
   Amylase / Lipase:53/60, Lactic Acid:2.2 mmol/L, Albumin:1.4 g/dL,
   LDH:584 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
 Septic shock
   -vanc, meropenem
   -cx data unrevealing so far
   - pressor requirement is increasing
   -hypothermia - improving with blankets, inc room temp
   -associated with hypotension - broke on its own
   -check EKG, abg, lytes to assess for potential addressable etiologies
   -pressors could be impacting given inc dose.  Consider start
   vasopressin to allow [**Month (only) 453**] in pressor dose.
 H/O ALTERED MENTAL STATUS
   -EEG negative for NCSE
   -likely delerium related to medications/sepsis
 Hyponatremia
   -improving
 Acute on chronic renal failure
   -creatinine trending up, urine output minimal
   -not responding to IVF boluses
   -bladder pressure lower than yesterday
   -ATN from hypotension/sepsis vs. HRS
   -renal team following - are not inclined to dialyze
Respiratory failure
   -requiring sig PEEP to offload diaphragm due to elevated intra-abd
   pressures
Liver failure
   -liver service following
   -not a transplant candidate since looks like would require liver/kidney
   tx which has poor outcome in HIV population
Goals of care
   -prognosis worsening -need to discuss goals of care
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-4**] 09:32 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Patient is critically ill.
   Total time spent: 45 minutes

2200-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2200-5-4**] 11:15 AM
   - regular narrow complex tachycardia rate in 140s, likely PSVT, broke
   spontaneously. Adenosine at bed side. Possibly due to increased
   levophed requirement to maintain MAP >75. MAP goal reduced to >65
   verified w/ renal.
   - Remains dependent on levophed gtt, attempt to reduce dose but MAP <65
   so subsequently levophed gtt increased to 0.15mcg. Continues with low
   urine output (10-20cc/hr).
   - Dr. [**Last Name (STitle) 356**] attempted to discuss goals of care with family, but unable
   to get in touch.
   - No overnight events.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-4**] 02:00 PM
   Meropenem - [**2200-5-5**] 12:48 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-5-4**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 87 (86 - 170) bpm
   BP: 97/52(66) {86/50(56) - 127/77(93)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 99.5 kg
   Height: 65 Inch
    Bladder pressure: 24 (16 - 24) mmHg
   Total In:
                                                                  2,653 mL
                                                                    768 mL
   PO:
   TF:
                                                                    720 mL
                                                                    204 mL
   IVF:
                                                                  1,273 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  1,602 mL
                                                                     80 mL
   Urine:
                                                                    602 mL
                                                                     80 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,051 mL
                                                                    688 mL
   Respiratory support  ).  Pt continues to be intubated on PS with a FiO2
   40% 5/10. Pt with a RR of 21-30, PEAK of 16, SpO2 94-96 and TV in the
   600
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (508 - 648) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.28/32/111/13/-10
   Ve: 12.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: intubated, icteric
   HEENT: PERRL, sclerae icteric
   Lung: Inspiratory diffuse rhonchi
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: diffuse [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubated; MAE non-purposefully
   Labs / Radiology
   32 K/uL
   8.5 g/dL
   165 mg/dL
   2.0 mg/dL
   13 mEq/L
   4.0 mEq/L
   100 mg/dL
   118 mEq/L
   143 mEq/L
   23.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2200-5-3**]  02:24 AM
                             [**2200-5-3**]  04:38 PM
                             [**2200-5-3**]  04:41 PM
                             [**2200-5-3**]  10:38 PM
                             [**2200-5-4**]  03:37 AM
                             [**2200-5-4**]  03:48 AM
                             [**2200-5-4**]  11:47 AM
                             [**2200-5-4**]  12:03 PM
                             [**2200-5-5**]  03:26 AM
                             [**2200-5-5**]  04:27 AM
   WBC
   15.0
   15.0
   Hct
   25.3
   25.6
   25.7
   23.8
   Plt
   39
   32
   Cr
   1.6
   1.8
   1.8
   2.0
   TCO2
   18
   18
   18
   18
   17
   16
   Glucose
   148
   163
   168
   165
   Other labs: PT / PTT / INR:53.7/80.5/6.0 (3.5)
   ALT / AST:34/110, Alk Phos / T Bili:258/19.8 (19.9), Amylase /
   Lipase:53/60, Lactic Acid:2.7 Albumin:1.4 g/dL, LDH:589 IU/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:7.9 mg/dL
   C. Diff: negative x2
   Assessment and Plan
   45 y/o F with hx of Hepatitis C cirrhosis, hepato-renal syndrome with
   worsening renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.4 fluid
   administration unlikely to remain intravascular.  Previously more
   interactive with higher MAP.   Increased pressor requirement overnight
   to maintain MAP > 75 but this AM narrow complex tachycardia with rate
   to 140s possibly due to increased levophed.
   - Possibly secondary to sepsis.
   - Monitor volume status closely to avoid further fluid overload
 avoid
   IVF as minimal UOP
   - CVP 8-12 (though no current mechanism to monitor)
   - continue levophed to MAP >65 PRN (for decreasing UOP)
   - continue broad spectrum antibiotics and dose vancomycin by trough
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   .
   # Altered mental status:  The differential includes seizure/post-ictal,
   hepatic encephalopathy, infection, hyponatremia , medication induced
   (started following ativan administration).   CT head with no evidence
   of acute process or cerebral edema. EEG consistent with encephalopathy
   with toxic/metabolic or infection being most common causes.  Cannot
   exclude seizure activity due to hepatic encephalopathy and uremia.  CXR
   on [**4-28**] with possible RLL opacity.
   - 24 hour EEG completed: generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted.
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; likely
   contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out). Likely contaminant
   - Continue vanco/[**Last Name (un) **]
   - dose vancomycin based on level
   .
   # ARF: Creatinine ranging from 1.8  to 2.4 (from baseline 1.0) and
   continues to have low urine output (10-25cc/hr). The differential
   includes poor renal perfusion, possibly ATN vs. HRS. Given very low
   urine Na concern for development of HRS.  Renal evaluation over the
   weekend noted that renal replacement therapy will not be an option.
   Bladder pressures 24 today.
   - [**Hospital1 **] lytes
   - monitor bladder pressure
   - follow urine output closely given history of hepatorenal syndrome;
   consider bolus if < 20 cc/hr
   - F/U renal and liver recs regarding treatment for HRS
   - monitor bladder pressure
   .
   # SVT: Patient had episode of regular narrow complex tachycardia on
   [**2200-5-3**] likely PSVT, broke spontaneously.  Possibly due to increasing
   levophed requirement to maintain MAP >75.
   - monitor on telemetry
   - lower MAP requirement to >65 (from >75)
   - adenosine at bedside
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG showing generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted
   - MRI when stable
   - neurology recommending no AED at this time
   - seizure precautions
   .
   # Hypothermia: possibly infected. Currently maintaining body temp, but
   low.
   - Continue vanco/[**Last Name (un) **] empirically.
   - Bear hugger for low temperature
   .
   # Hepatitis C Cirrhosis:  She continues to be anicteric with a
   worsening INR and liver function tests and a MELD today of 44.
   Per hepatology likely not candidate for transplant at this time.
   - continue to trend LFTs/coags
   - f/u liver recs
   - continue lactulose
   - Low dose vitamin K for elevated INR
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 140.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   -  re-check bedside US today and consider diagnostic and therapeutic
   paracentesis if sufficient ascites
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.  Multiple UA
   and cultures no growth to date.
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Anemia: slowly trending down with  guaiac + stool
   -  continue to monitor HCT (check PM)
   - consider transfusion for active bleed or HCT <24
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC (will hold off on CVL for today)
   # CODE: Full
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-5**] 02:08 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-05 11:32:00 Physician Attending Progress Note
Chief Complaint: septic shock, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 with ESLD, HIV, admitted since [**4-3**]. Originally admitted with
   encephalopathy, septic shock.   Course c/b renal failure.  Has been
   back and forth to the MICU.  Most recently admitted with respiratory
   failure, septic shock, renal failure.
   24 Hour Events:
 EKG - At [**2200-5-4**] 11:15 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-4**] 02:00 PM
   Meropenem - [**2200-5-5**] 08:10 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-5-4**] 04:30 PM
   Other medications:
   levoxyl
   SSI
   rifaxamin
   thiamine
   folate
   ursadiol
   lactulose
   protonix
   epivir, ritonavir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-5**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 94 (86 - 170) bpm
   BP: 106/53(68) {86/46(56) - 127/77(93)} mmHg
   RR: 19 (17 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 99.5 kg
   Height: 65 Inch
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  2,653 mL
                                                                  1,294 mL
   PO:
   TF:
                                                                    720 mL
                                                                    335 mL
   IVF:
                                                                  1,273 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                  1,602 mL
                                                                    210 mL
   Urine:
                                                                    602 mL
                                                                    130 mL
   NG:
                                                                     80 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,051 mL
                                                                  1,084 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (508 - 648) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.28/32/111/13/-10
   Ve: 11 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: firm abdomen
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   32 K/uL
   165 mg/dL
   2.0 mg/dL
   13 mEq/L
   4.0 mEq/L
   100 mg/dL
   118 mEq/L
   143 mEq/L
   23.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2200-5-3**]  02:24 AM
                             [**2200-5-3**]  04:38 PM
                             [**2200-5-3**]  04:41 PM
                             [**2200-5-3**]  10:38 PM
                             [**2200-5-4**]  03:37 AM
                             [**2200-5-4**]  03:48 AM
                             [**2200-5-4**]  11:47 AM
                             [**2200-5-4**]  12:03 PM
                             [**2200-5-5**]  03:26 AM
                             [**2200-5-5**]  04:27 AM
   WBC
   15.0
   15.0
   Hct
   25.3
   25.6
   25.7
   23.8
   Plt
   39
   32
   Cr
   1.6
   1.8
   1.8
   2.0
   TCO2
   18
   18
   18
   18
   17
   16
   Glucose
   148
   163
   168
   165
   Other labs: PT / PTT / INR:53.7/80.5/6.0, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:34/110, Alk Phos / T Bili:258/19.8,
   Amylase / Lipase:53/60, Lactic Acid:2.7 mmol/L, Albumin:1.4 g/dL,
   LDH:589 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   Respiratory failure:  Contine on PSV.
   Septic shock:  No definite source.  On broad spectrum antibiotics
   (vanco and [**Last Name (un) **]) empirically.
   Acute renal failure: hepatorenal syndrome versus ATN.  Not a great
   candidate for RRT as overall prognosis is very poor because she is not
   transplant
   candidate.
   Cirrhosis:   MELD score of 44.  Overall poor prognosis.  Poor MS c/w
   encephalopathy
   Will try to gather family for meeting given overall poor prognosis and
   lack of options for further treatment.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2200-5-5**] 02:08 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-05-06 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt received cefepime accidental dose x 1 (another patient's
   medication). Has PCN allergy (hives) but no known anaphylaxis. No
   immediate rxn. No meds given at this time.
   - Discussed poor prognosis with son. Renal also discussed futility of
   RRT. Change in code status to DNR (ok to continue intubation, ok to
   continue pressors). Son contacting family for potential family meeting
   on Tuesday.
   - Transfused 1 unit pRBC; post-transfusion Hct - 24 (from 22)
   - Coags markedly worse with PM labs; son was called to notify him that
   patient's labs are becoming progressively unstable and that family
   meeting should not be detained until Friday as complications may arise
   before then. He will try to arrange for meeting tomorrow afternoon. Had
   Qs about meaning of "CMO" when this issue was raised; still seems very
   hesitant to change plan of care.
   - Few hundred cc's of guaiac-positive maroon fluid removed from stomach
   through NGT at ~5:30 am during routine flush; Hct ordered for 9:00 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-4**] 02:00 PM
   Meropenem - [**2200-5-5**] 04:12 PM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-5-6**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2200-5-6**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 98 (84 - 99) bpm
   BP: 76/41(53) {76/41(53) - 112/58(74)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 99.5 kg
   Height: 65 Inch
    Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  3,050 mL
                                                                    575 mL
   PO:
   TF:
                                                                    720 mL
                                                                    150 mL
   IVF:
                                                                  1,240 mL
                                                                    425 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,245 mL
                                                                     45 mL
   Urine:
                                                                    225 mL
                                                                     45 mL
   NG:
                                                                    120 mL
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,805 mL
                                                                    530 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 646 (537 - 664) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.26/32/91/13/-11
   Ve: 12.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: intubated, icteric
   HEENT: PERRL, sclerae icteric
   Lung: Inspiratory diffuse rhonchi
   Cardiovascular: S1, S2 regular rhythm, high rate
   Abdominal: NTND, soft
   Extremities: diffuse [**2-26**]+ pitting edema
   Skin:  Warm, Jaundice
   Neurologic: intubated; MAE non-purposefully
   Labs / Radiology
   30 K/uL
   8.6 g/dL
   122 mg/dL
   2.1 mg/dL
   13 mEq/L
   4.3 mEq/L
   107 mg/dL
   115 mEq/L
   144 mEq/L
   24.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2200-5-4**]  11:47 AM
                             [**2200-5-4**]  12:03 PM
                             [**2200-5-5**]  03:26 AM
                             [**2200-5-5**]  04:27 AM
                             [**2200-5-5**]  11:44 AM
                             [**2200-5-5**]  02:19 PM
                             [**2200-5-5**]  05:48 PM
                             [**2200-5-5**]  09:29 PM
                             [**2200-5-5**]  10:56 PM
                             [**2200-5-6**]  02:43 AM
   WBC
   15.0
   16.2
   Hct
   25.7
   23.8
   22.1
   24.7
   24.8
   Plt
   32
   30
   Cr
   1.8
   2.0
   2.1
   TCO2
   17
   16
   15
   15
   15
   Glucose
   168
   165
   122
   Other labs: PT / PTT / INR:85.0/116.8/10.3, ALT / AST:42/179, Alk Phos
   / T Bili:232/18.1, Amylase / Lipase:53/60, Differential-Neuts:79.9 %,
   Lymph:6.0 %, Mono:11.6 %, Eos:2.2 %, Lactic Acid:3.5 mmol/L,
   Albumin:1.4 g/dL, LDH:589 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:9.0
   mg/dL
   Assessment and Plan
   45 y/o F with hx of Hepatitis C cirrhosis, hepato-renal syndrome with
   worsening renal function, HIV, hx of recent SBP and new seizures who is
   being transferred to the MICU with altered mental status.
   .
   # Hepatitis C Cirrhosis with hepatic failure:  She continues to be
   grossly icteric with a worsening INR and liver function tests and a
   MELD today of 51. Vitamin K for elevated INR has not been helpful in
   lowering INR.  With new likely GIB noted on suctioning today, will
   likely need FFP/DDAVP depending on goals of  care.
   Per hepatology likely not candidate for transplant at this time.
   - continue to trend LFTs/coags
   - f/u liver recs
   - continue lactulose
   - 1PRBC, 1 unit platelets, 2 unit FFP as temporizing measure until
   goals of care re-addressed this afternoon
   - consider FFP/DDAVP for UGIB if goals of care remain the same.  Repeat
   HCT at 0900 this morning.
   .
   # Shock
 appears intravascularly dry on exam and on laboratory reports
   although given third spacing and with albumin of 1.4 fluid
   administration unlikely to remain intravascular.  Previously more
   interactive with higher MAP.   Increased pressor requirement overnight
   with addition of an additional pressor.
   - Possibly secondary to sepsis.
   - Monitor volume status closely to avoid further fluid overload
 avoid
   IVF as minimal UOP
   - continue levophed/vasopressin to MAP >65 PRN (for decreasing UOP)
   - if MAP continues to decline will add neosynephrine
   - ABG at noon, if pH <7.2 then consider bicarbonate
   - continue broad spectrum antibiotics and dose vancomycin by trough
   .
   #Respiratory: Intubated due to altered mental status and concern for
   inability to protect airway.  Picture consistent with [**Doctor Last Name 76**], possibly
   meets criteria for ARDS.  Bronchoscopy with evidence of mucous
   plugging, collapse
   - Would defer extubation given persistent AMS and concern for airway
   protection
   - Continue antibiotics with vanco/[**Last Name (un) **] for ? PNA as above
   - Attempted AC low tidal volume (6cc/kg) but patient was pulling large
   tidal volumes (800cc) and auto-peeping to 25.  Could not tolerate AC
   and switched to PSV.
   # Goals of Care: patient
s hepatic failure continues to worsen as
   evidenced by worsening t. bili and INR.  Extremely unlikely that
   patient will recover from this illness.
   - Arrange family meeting as expeditiously as possible to address goals
   of care.
   .
   # Altered mental status:  The differential includes seizure/post-ictal,
   hepatic encephalopathy, infection, hyponatremia , medication induced
   (started following ativan administration).   CT head with no evidence
   of acute process or cerebral edema. EEG consistent with encephalopathy
   with toxic/metabolic or infection being most common causes.  Cannot
   exclude seizure activity due to hepatic encephalopathy and uremia.  CXR
   on [**4-28**] with possible RLL opacity.
   - 24 hour EEG completed: generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted.
   - F/U infectious work-up (blood cx, urine cx, consider diagnostic
   paracentesis if tappable pocket)
   - continue broad spectrum antibiotics for now (vancomycin/meropenem)
   - hyponatremia resolved, continue to monitor
   - continue lactulose
   - F/u hepatology recs
   - Avoid sedatives (ativan) and medications that lower the seizure
   threshold .
   # Positive BCx. GPC in clusters from [**4-27**] -> coag negative staph; likely
   contaminant as only 1/4 bottles positive.
   - Treat through for now given only
 bottle positive (may still require
   PICC changed out). Likely contaminant
   - Continue vanco/[**Last Name (un) **]
   - dose vancomycin based on level
   .
   # ARF: Creatinine ranging from 1.8  to 2.4 (from baseline 1.0) and
   continues to have low urine output (10-25cc/hr). The differential
   includes poor renal perfusion, possibly ATN vs. HRS. Given very low
   urine Na concern for development of HRS.  Renal evaluation over the
   weekend noted that renal replacement therapy will not be an option.
   Bladder pressures 24 today.
   - [**Hospital1 **] lytes
   - monitor bladder pressure
   - follow urine output closely given history of hepatorenal syndrome
   - F/U renal and liver recs regarding treatment for HRS
   .
   # SVT: Patient had episode of regular narrow complex tachycardia on
   [**2200-5-3**] likely PSVT, broke spontaneously.  Possibly due to increasing
   levophed requirement to maintain MAP >75.
   - monitor on telemetry
   - lower MAP requirement to >65 (from >75)
   - adenosine at bedside
   .
   # Seizures: unclear why patient has seizure disorder, could be
   secondary to swelling for liver failure, could be underlying organic
   seizure disorder than is now manifesting itself bc of cipro and the
   wearing off of keppra.
   - 24 hour  EEG showing generalized epileptiform discharges c/w
   non-convulsive status, but no definitive seizure activity noted
   - MRI if stable
   - neurology recommending no AED at this time
   - seizure precautions
   .
   # Hypothermia: possibly infected. Currently maintaining body temp, but
   low.
   - Continue vanco/[**Last Name (un) **] empirically.
   - Bear hugger prn for low temperature
   .
   # Hyponatremia: had new hyponatremia, thought to be secondary to
   diuretic use and possible SIADH. FeNa < 1%. Concern for possible
   hepatorenal in setting of rising INR, creatinine with current.
   Corrected from 128 to 136 over past 36 hours with hypertonic saline.
   Resolved at 140.
   - continue to hold diuretics
   - fluid restriction for 1000 ml daily
   - monitor sodium level carefully throughout the day
   - F/U liver recs re: use of albumin, octreotide, midodrine
   - Trend electrolytes [**Hospital1 **]
   .
   # Hx SBP: has hx of SBP and was started on cipro ppx; in setting of
   altered mental status, should worry about new infection, although based
   on clinical setting, has a lower likelihood that seizure disorder as
   discussed above.
   -  re-check bedside US today and consider diagnostic and therapeutic
   paracentesis if sufficient ascites
   - Continue vanco/[**Last Name (un) **]
   .
   # Hx of ESBL UTI: stable, s/p treatment with meropenem.  Multiple UA
   and cultures no growth to date.
   .
   # HIV: stable, last CD4 in 600s.
   - continue home meds (renally dosed)
   .
   # Anemia: slowly trending down with  guaiac + stool
   -  continue to monitor HCT (check PM)
   - consider transfusion for active bleed or HCT <24
   .
   # Thrombocytopenia: stable, likely secondary to liver disease, did have
   HIT initially.  Continue to trend, tx for <10 or if actively bleeding.
   Consider DDAVP if actively bleeding.
   .
   # FEN: albumin for SBP / replete lytes prn / continue TF
   # PPX: PPI IV, pneumoboots given thrombocytopenia, bowel regimen
   # ACCESS: PICC (will hold off on CVL for today)
   # CODE: DNR (intubated; pressors okay)
   #COMMUNICATION: son
 ? Family Meeting
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-05-06 10:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo women with ESLD, HIV, worsening septic shock.  On increasing
   doses of pressors.  Son made her DNR yesterday.  Trying for family
   meeting today.  added vasopressin.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Aldactone (Oral) (Spironolactone)
   angioedema;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   blisters;
   Last dose of Antibiotics:
   Vancomycin - [**2200-5-4**] 02:00 PM
   Meropenem - [**2200-5-5**] 04:12 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.32 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-5-6**] 04:05 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2200-5-6**] 09:42 AM
   Other medications:
   levoxyl
   SSI
   rifaxamin
   thiamin
   folate
   ursadiol
   lactulose
   protonix
   epivir/zidovudin
   sevalamer
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-5-6**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 102 (84 - 103) bpm
   BP: 82/46(59) {76/41(53) - 112/56(72)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 99.5 kg
   Height: 65 Inch
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  3,050 mL
                                                                    797 mL
   PO:
   TF:
                                                                    720 mL
                                                                    150 mL
   IVF:
                                                                  1,240 mL
                                                                    597 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,245 mL
                                                                    170 mL
   Urine:
                                                                    225 mL
                                                                     80 mL
   NG:
                                                                    120 mL
                                                                     90 mL
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,805 mL
                                                                    627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 696 (550 - 696) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.24/34/117/13/-11
   Ve: 18.1 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   30 K/uL
   122 mg/dL
   2.1 mg/dL
   13 mEq/L
   4.3 mEq/L
   107 mg/dL
   115 mEq/L
   144 mEq/L
   21.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2200-5-5**]  03:26 AM
                             [**2200-5-5**]  04:27 AM
                             [**2200-5-5**]  11:44 AM
                             [**2200-5-5**]  02:19 PM
                             [**2200-5-5**]  05:48 PM
                             [**2200-5-5**]  09:29 PM
                             [**2200-5-5**]  10:56 PM
                             [**2200-5-6**]  02:43 AM
                             [**2200-5-6**]  08:58 AM
                             [**2200-5-6**]  09:06 AM
   WBC
   15.0
   16.2
   Hct
   23.8
   22.1
   24.7
   24.8
   21.4
   Plt
   32
   30
   Cr
   2.0
   2.1
   TCO2
   16
   15
   15
   15
   15
   Glucose
   165
   122
   Other labs: PT / PTT / INR:85.0/116.8/10.3, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:42/179, Alk Phos / T Bili:232/18.1,
   Amylase / Lipase:53/60, Differential-Neuts:79.9 %, Lymph:6.0 %,
   Mono:11.6 %, Eos:2.2 %, Lactic Acid:4.1 mmol/L, Albumin:1.4 g/dL,
   LDH:589 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTHERMIA
   Overall worsening picture.  Multi-organ system failure with increasing
   pressor requirments.
   Renal failure
   Liver failure
   hepatic encephalopathy
   Evidence of UGIB from NGT:  will give PRBCs, plts, and FFP.
   Family meeting today to readdress goals of care as chances of recovery
   are now minimal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-27**] 08:56 PM
   PICC Line - [**2200-4-28**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Had family meeting with Pt
s son, [**Name (NI) **], Sister, family members, and
   ICU team, including Dr. [**Last Name (STitle) 2728**] from hepatology.   Discussed that patient
   has progressively worsening multiorgan system failure, including
   increasing pressor requirement, renal failure, respiratory failure, and
   no is having GI bleeding.  At this point, given severity of disease and
   lack real treatment options, there is not much more we can do to save
   her, and prognosis is grim.  Given this pt
s family agrees that we will
   limit care, pending visits from other family members, at which point
   she will be made CMO.  At this point we will give no further
   transfusions.
    CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2200-5-6**] 14:34 ------